US09416138B2
2-(3-oxo-1,4-benzoxazin-4-yl)acetaldehyde
Dissolve 4-(2,2-diethoxyethyl)-1,4-benzoxazin-3-one (710 mg, 2.68 mmol) in THF (5.35 mL) and add aqueous HCl (3 M, 3.57 mL, 10.7 mmol). Stir at ambient temperature for 7 hours. Remove the organic solvent using a stream of nitrogen gas, and extract the aqueous residue with EtOAc. Combine the organic extracts; wash with water and saturated aqueous NaHCO3; and dry over Na2SO4. Filter and remove the solvents from the filtrate under reduced pressure to provide the title compound as a white solid (490 mg, 89.07%). MS (m/z): 192 (M+1).

reactant | 4-(2,2-diethoxyethyl)-1,4-benzoxazin-3-one | 2.68 mmol, 710 mg | C(C)OC(CN1C(COC2=C1C=CC=C2)=O)OCC | C14H19NO4
reactant | HCl | 10.7 mmol, 3 M, 3.57 mL | Cl | ClH
solvent | THF | 5.35 mL | C1CCOC1 | C4H8O
product | 2-(3-oxo-1,4-benzoxazin-4-yl)acetaldehyde | 490 mg, 89.07% | O=C1COC2=C(N1CC=O)C=CC=C2 | C10H9NO3
